US06121271
4-[4-(2,3-Dimethyl-naphtho[2,3-b]furan-4-yl)-2,6-diethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid
At ambient temperature, to a stirred suspension containing 4-(2, 3-dimethyl-naphtho[2,3-b]furan-4-yl)-2,6-diethyl-phenol (0.317 g, 0.919 mmol) and 0.O1M aq. Borax (6 mL) in THF (9 mL) was added 2.5N NaOH (0.397 mL). To the reaction was added dropwise a solution of 4-chlorosulphonyl-2-hydroxybenzoic acid (0.653 g, 2.76 mmol) in THF (12 mL) while maintaining the pH at 10 with the simultaneous addition of 2.5N NaOH. After 48 h, additional 4-chlorosulphonyl-2-hydroxybenzoic acid (0.440 g, 1.86 mmol) in THF (12 mL) was added dropwise while maintaining the pH at 10 with the simultaneous addition of 2.5N NaOH and the reaction was stirred for an additional 48 h. The reaction was quenched with 1N HCl and extracted with ether. The combined ethereal extracts were washed with brine (1×), dried (Na2SO4) and concentrated. Purification on 2% H3PO4 /MeOH treated silica gel eluting with 2% EtOAc/hexane followed by recrystallization (EtOAc/hexane) gave 95 mg (19%) of the title compound as an off white solid, mp 222-227° C. 1H NMR (DMSO-d6) δ 1.09 (t, 6 H), 1.55 (s, 3 H), 2.40 (s, 3 H), 2.55-2.60 (m, 4 H), 7.21 (s, 2 H), 7.37-7.39 (m, 1 H), 7.43-7.49 (m, 3 H), 7.53 (d of d, 1 H), 7.99 (s, 1 H), 8.01-8.04 (m, 1 H), 8.08 (d, 1 H). mass spectrum (-ESI) m/z 543 (M-H). Anal. Calcd. for C31H28O7S.0.5H2O: C, 67.25; H, 5.28; N, 0.00. Found: C, 67.14; H, 5.21; N, 0.08.

reactant | 4-(2, 3-dimethyl-naphtho[2,3-b]furan-4-yl)-2,6-diethyl-phenol | 0.919 mmol, 0.317 g | CC1=C(C2=C(O1)C=C1C=CC=CC1=C2C2=CC(=C(C(=C2)CC)O)CC)C | C24H24O2
reactant | NaOH | 2.5N, 0.397 mL | [OH-].[Na+]
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 2.76 mmol, 0.653 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
reactant | NaOH | 2.5N | [OH-].[Na+]
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 1.86 mmol, 0.440 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
reactant | NaOH | 2.5N | [OH-].[Na+]
solvent | THF | 9 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 4-[4-(2,3-Dimethyl-naphtho[2,3-b]furan-4-yl)-2,6-diethyl-phenoxysulfonyl]-2-hydroxy-benzoic acid | 95 mg, 19% | CC1=C(C2=C(O1)C=C1C=CC=CC1=C2C2=CC(=C(OS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O)C(=C2)CC)CC)C | C31H28O7S
